US03994939
6-(Triphenylmethylamino)-2,2-dimethyl-3-(5-tetrazolyl)penam
To a stirred mixture of 2 ml. of tetrahydrofuran and 4 ml. of water is added 150 mg. of 6-(triphenylmethylamino)-2,2-dimethyl-3-(1-[ethoxycarbonyl]tetrazol-5-yl)penam. The pH of the mixture is adjusted to 9.5, and stirring is continued at that pH for a further 30 minutes, at ambient temperature. The bulk of the tetrahydrofuran is removed by evaporation in vacuo, and the residue is partitioned between water and ethyl acetate at pH 9. The ethyl acetate is removed and discarded. Fresh ethyl acetate is added and the pH is adjusted to 2.0. The ethyl acetate layer is removed, washed with water, dried using anhydrous sodium sulfate, and evaporated in vacuo to give the crude title compound.

reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 6-(triphenylmethylamino)-2,2-dimethyl-3-(1-[ethoxycarbonyl]tetrazol-5-yl)penam | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2C(=O)OCC)C1=O | C30H30N6O3S
solvent | water | O | H2O
product | 6-(Triphenylmethylamino)-2,2-dimethyl-3-(5-tetrazolyl)penam | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O | C27H26N6OS
